US06281227B1
7-Methoxynaphthalene-2-sulfonic acid [1-(1-hydroxyisoquinolin-7ylmethyl)-2-oxopyrrolidin-3(R,S)-yl]-amide
7-Methoxynaphthalene-2-sulfonic acid [1-(1-chloro-isoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide (0.07 g, 0.14 mmol), prepared as described in EXAMPLE 1, Part K, is treated with dioxane (1 mL) and 10% aq. NaOH (3 mL) and heated to reflux for 48 hours. The reaction was cooled, acidified with 1 N HCl and extracted with CH2Cl2. The organic layer is separated, dried and concentrated. The residue is purified by column chromatography eluting with 2.5% MeOH/CH2Cl2. The product fractions are collected, concentrated and precipitated with dilute HCl/ether to yield the title compound (0.041 g, 0.086 mmol).

reactant | 7-Methoxynaphthalene-2-sulfonic acid [1-(1-chloro-isoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide | 0.14 mmol, 0.07 g | ClC1=NC=CC2=CC=C(C=C12)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C25H22ClN3O4S
reactant | NaOH | 3 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 7-Methoxynaphthalene-2-sulfonic acid [1-(1-hydroxyisoquinolin-7ylmethyl)-2-oxopyrrolidin-3(R,S)-yl]-amide | 0.086 mmol, 0.041 g | OC1=NC=CC2=CC=C(C=C12)CN1C(C(CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C25H23N3O5S
